US05948820
To a solution of 8-hydroxy-8-(2-phenylethyl)-1,4-dioxaspiro[4.5]decane (12.8 g) in acetonitrile (200 ml), a concentrated sulfuric acid (5.7 ml) was dropwise added under ice-cooling over 3 minutes. The reaction mixture was left standing at room temperature for 2 days, poured into a saturated aqueous sodium hydrogencarbonate solution under ice-cooling and extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure to give 8-acetamido-8-(2-phenylethyl)-1,4-dioxaspiro[4.5]decane as a crude product. The crude product was dissolved in tetrahydrofuran (140 ml) without purifying and thereto was added a 0.1N aqueous hydrochloric acid solution (30 ml) at room temperature and the mixture was allowed to stand overnight. The mixture was carefully poured into a ice-cooled saturated aqueous sodium hydrogen-carbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away to give crude crystals. The crystals were recrystallized from a mixed solvent (1:1) of 1,2-dimethoxyethane-diisopropyl ether to give 1/5 hydrate of the subject compound (5.1 g) as white crystals, melting at 140-143° C.

reactant | 8-hydroxy-8-(2-phenylethyl)-1,4-dioxaspiro[4.5]decane | 12.8 g | OC1(CCC2(OCCO2)CC1)CCC1=CC=CC=C1 | C16H22O3
reactant | sulfuric acid | 5.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 8-acetamido-8-(2-phenylethyl)-1,4-dioxaspiro[4.5]decane | C(C)(=O)NC1(CCC2(OCCO2)CC1)CCC1=CC=CC=C1 | C18H25NO3
